US04977175
Thionyl chloride, 10 ml, was added to 1.4 g (2.7 mmols) of 1-methyl-4,5,6,7-tetrahydrobenzimidazole-5-carboxylic acid hydrochloride (including NaCl) obtained in Reference Example 1 and the mixture was heated at 90° C. for 4 hours. After thionyl chloride was distilled off under reduced pressure, 10 ml of dichloromethane was added to the residue and at 0° to 4° C., 0.50 ml (4.4 mmols) of o-anisidine and 1.0 ml (7.2 mmols) of triethylamine were added to the mixture followed by stirring at room temperature for 21 hours. After 40 ml of dichloromethane was added to the reaction mixture, the mixture was washed with 1 N sodium hydroxide solution and then dried over anhydrous magnesium sulfate, the solvent was distilled off. The residue was subjected to silica gel column chromatography and eluted with dichloromethane methanol-ammonia water (10 : 1 : 0.1). The solvent was distilled off and the resulting crystals were recyrstallized from ethyl acetate to give 0.18 g of N-(2-methyoxyphenyl)-4,5,6,7-tetrahydrobenzimidazole -5-carboxamide hydrate.

reactant | Thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 1-methyl-4,5,6,7-tetrahydrobenzimidazole-5-carboxylic acid hydrochloride | 2.7 mmols, 1.4 g | Cl.CN1C=NC2=C1CCC(C2)C(=O)O
reactant | o-anisidine | 4.4 mmols, 0.50 ml | COC=1C(=CC=CC1)N | C7H9NO
reactant | triethylamine | 7.2 mmols, 1.0 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | N-(2-methyoxyphenyl)-4,5,6,7-tetrahydrobenzimidazole -5-carboxamide hydrate | 0.18 g | O.COC1=C(C=CC=C1)NC(=O)C1CC2=C(N=CN2)CC1 | InChI=1S/C15H17N3O2.H2O/c1-20-14-5-3-2-4-12(14)18-15(19)10-6-7-11-13(8-10)17-9-16-11;/h2-5,9-10H,6-8H2,1H3,(H,16,17)(H,18,19);1H2
